US04129590
A 50.0 g amount of (61.5%) 1-naphthylamine-4,7-disulfonic acid is dissolved in 150 ml of water and 5N sodium hydroxide is added until basic pH (10-11). The solution is warmed and ethyl alcohol is added until a precipitate forms. The solid is collected by filtration, washed with 85% ethyl alcohol, ethyl alcohol and ether and is dried in vacuo at 110° C. to give 31.0 g of 4-amino-1,6-naphthalenedisulfonic acid disodium salt.

reactant | 1-naphthylamine-4,7-disulfonic acid | C1=CC2=C(C=CC(=C2C=C1S(=O)(=O)O)N)S(=O)(=O)O | C10H9NO6S2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | ethyl alcohol | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 4-amino-1,6-naphthalenedisulfonic acid disodium salt | 31.0 g | [Na+].[Na+].NC1=CC=C(C2=CC=C(C=C12)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C10H9NO6S2.2Na/c11-9-3-4-10(19(15,16)17)7-2-1-6(5-8(7)9)18(12,13)14;;/h1-5H,11H2,(H,12,13,14)(H,15,16,17);;/q;2*+1/p-2
